US08022248B2
i) 2-(4-bromo-2-chlorophenoxy)-4-chloro-benzenamine
The subtitle compound was prepared by the method of example 3 step viii) using 2-amino-5-chlorophenol and 3-chloro-4-fluorobromobenzene. Yield 2.05 g.

reactant | 2-amino-5-chlorophenol | NC1=C(C=C(C=C1)Cl)O | C6H6ClNO
reactant | 3-chloro-4-fluorobromobenzene | ClC=1C=C(C=CC1F)Br | C6H3BrClF
product | 2-(4-bromo-2-chlorophenoxy)-4-chloro-benzenamine | BrC1=CC(=C(OC2=C(C=CC(=C2)Cl)N)C=C1)Cl | C12H8BrCl2NO
